US07884109B2
3,4-Dihydro-2H-pyrano[2,3-b]pyridin-4-ol.
Potassium tert-butoxide (0.88 g) was added to a solution of 1-(2-chloropyridin-3-yl)propane-1,3-diol (0.49 g) in tert-butanol and the solution was heated at reflux for 3 hr, allowed to cool to RT, quenched via the addition al of sat. NH4Cl (2 mL), solvents reduced then silica gel added and remaining solvents removed in vacuo. The material was added to a silica gel column that was eluted with EtOAc and 1% MeOH/EtOAc to yield the titled product (0.35 g) NMR CDCl3 1H δ 8.1 (dd, 1H), 7.7 (dd, 1H), 6.9 (dd, 1H), 4.9 (dd, 1H), 4.5 (m, 2H), 2.1 (m, 2H); MH+=152.

reactant | Potassium tert-butoxide | 0.88 g | CC(C)([O-])C.[K+]
reactant | 1-(2-chloropyridin-3-yl)propane-1,3-diol | 0.49 g | ClC1=NC=CC=C1C(CCO)O | C8H10ClNO2
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 3,4-Dihydro-2H-pyrano[2,3-b]pyridin-4-ol | 0.35 g | O1CCC(C=2C1=NC=CC2)O | C8H9NO2
